US06680329B2
A solution of 1.54 g (3.0 mmol) of phenylmethyl (S)-4-[4-[[(1,1-dimethylethoxy)carbonyl]amino]-5-(4-ethylpiperid-1-yl)-5-oxopentyl]piperidine-1-carboxylate in 60 ml of dichloromethane is treated for 5 min at 0° C. with a stream of hydrogen chloride. After 3 hours at 0° C., the mixture is concentrated under reduced pressure. The resulting product is used without further purification in the following step. 1.35 g of phenylmethyl (S)-4-[4-amino-5-(4-ethylpiperid-1-yl)-5-oxopentyl]piperidine-1-carboxylate hydrochloride are thus obtained in the form of a viscous oil.

reactant | phenylmethyl (S)-4-[4-[[(1,1-dimethylethoxy)carbonyl]amino]-5-(4-ethylpiperid-1-yl)-5-oxopentyl]piperidine-1-carboxylate | 3.0 mmol, 1.54 g | CC(C)(OC(=O)N[C@@H](CCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)N1CCC(CC1)CC)C | C30H47N3O5
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | phenylmethyl (S)-4-[4-amino-5-(4-ethylpiperid-1-yl)-5-oxopentyl]piperidine-1-carboxylate hydrochloride | 1.35 g, Yield (%)=100 | Cl.N[C@@H](CCCC1CCN(CC1)C(=O)OCC1=CC=CC=C1)C(=O)N1CCC(CC1)CC | InChI=1S/C25H39N3O3.ClH/c1-2-20-11-15-27(16-12-20)24(29)23(26)10-6-9-21-13-17-28(18-14-21)25(30)31-19-22-7-4-3-5-8-22;/h3-5,7-8,20-21,23H,2,6,9-19,26H2,1H3;1H/t23-;/m0./s1
